US07541341B2
To a mixture of [3-benzyloxy-4-(4-ethylbenzyl)-phenyl]acetonitrile (0.41 g) in ethanol (5 mL) and water (10 mL) was added potassium hydroxide (0.68 g), and the mixture was heated under reflux for 4 hours. To the reaction mixture was added 2 mol/L hydrochloric acid to acidify, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid (0.41 g). To a solution of the obtained [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid (0.41 g) in tetrahydrofuran (10 mL) were added pyridine (0.19 mL), di-tert-butylcarbonate (0.50 g) and ammonium hydrogen carbonate (0.18 g), and the mixture was stirred at room temperature for 18 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with ethylacetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]-acetoamide (0.38 g).

reactant | [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid | 0.41 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)CC(=O)O | C24H24O3
reactant | di-tert-butylcarbonate | 0.50 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | ammonium hydrogen carbonate | 0.18 g | C(O)([O-])=O.[NH4+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | pyridine | 0.19 mL | N1=CC=CC=C1 | C5H5N
product | 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]-acetoamide | 0.38 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)CC(=O)N | C24H25NO2
